US06953852B2
To a solution containing 3.77 g (27.7 mmoles) of benzofuroxan in 8.44 g (55.4 mmoles) of DBU was added portionwise with cooling 2.33 g (55.5 mmoles) of cyanamide. The reaction mixture was stirred at room temperature for 5 days and then diluted with 26 ml of acetone and treated with 4.16 g (69.3 mmoles) of acetic acid. After stirring at room temperature overnight the mixture was further diluted with 30.2 ml of acetone and stirred at room temperature an additional 2.5 hours. The resulting precipitate was collected and washed with 50 ml of acetone and 15 ml of water and then dried under vacuum overnight to give 2.09 g of tirapazamine.

reactant | benzofuroxan | 27.7 mmoles, 3.77 g | C1=CC2=NO[N+](=C2C=C1)[O-] | C6H4N2O2
reactant | DBU | 55.4 mmoles, 8.44 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | cyanamide | 55.5 mmoles, 2.33 g | N#CN | CH2N2
reactant | acetic acid | 69.3 mmoles, 4.16 g | C(C)(=O)O | C2H4O2
solvent | acetone | 26 ml | CC(=O)C | C3H6O
solvent | acetone | 30.2 ml | CC(=O)C | C3H6O
product | tirapazamine | 2.09 g | C=1C=CC2=C(C1)[N+](=C(N=[N+]2[O-])N)[O-] | C7H6N4O2
